US07855297B2
By the reaction and treatment in the same manner as in Example 83 using 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.72 g) and (bromomethyl)cyclopropane (0.174 mL) as starting materials, 5-benzyloxy-N-{[1-(cyclopropylmethyl)pyrazol-4-yl]methyl}-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.80 g) was obtained. By the reaction and treatment of this compound in the same manner as in Example 139, N-{[1-(cyclopropylmethyl)pyrazol-4-yl]methyl}-5-hydroxy-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride (0.58 g) was obtained.

reactant | 5-benzyloxy-N-(6-isopropylpyridin-3-yl)-N-[(pyrazol-4-yl)methyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide hydrochloride | 0.72 g | Cl.C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(CC=1C=NNC1)C=1C=NC(=CC1)C(C)C
reactant | (bromomethyl)cyclopropane | 0.174 mL | BrCC1CC1 | C4H7Br
product | 5-benzyloxy-N-{[1-(cyclopropylmethyl)pyrazol-4-yl]methyl}-N-(6-isopropylpyridin-3-yl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.80 g | C(C1=CC=CC=C1)OC1=C2CCCC(C2=CC=C1)C(=O)N(C=1C=NC(=CC1)C(C)C)CC=1C=NN(C1)CC1CC1 | C34H38N4O2
